US09193935B2
2.14: 2-(4-Phenylbut-2-en-2-yl)naphthalene
Starting from phenethyltriphenylphosphonium bromide (2.30 g, 5.14 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 3.2 mL, 5.14 mmol, 1.0 equiv.) and 1-(naphthalen-2-yl)ethanone (1.22 g, 7.20 mmol, 1.4 equiv.), 0.71 g (54%) of the title compound as a yellow oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 995:5).

reactant | phenethyltriphenylphosphonium bromide | 5.14 mmol, 2.30 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 5.14 mmol, 1.6 M, 3.2 mL, 1.0 equiv. | [Li]CCCC
reactant | 1-(naphthalen-2-yl)ethanone | 7.20 mmol, 1.22 g, 1.4 equiv. | C1=C(C=CC2=CC=CC=C12)C(C)=O | C12H10O
product | 2-(4-Phenylbut-2-en-2-yl)naphthalene | 0.71 g, 54% | C1(=CC=CC=C1)CC=C(C)C1=CC2=CC=CC=C2C=C1 | C20H18
